US08981111B2
To a solution of 6-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine (149 mg, 0.53 mmol) in 1,4-dioxane (10 mL) were sequentially added triethylamine (0.17 mL, 1.21 mmol), isovaleric anhydride (0.48 mL, 2.42 mmol) and N,N-dimethylformamide (3 drops). After refluxing for 7.5 h, the mixture was concentrated in vacuo, diluted in ethyl acetate (50 mL), washed with water (2×30 mL), dried over MgSO4 and concentrated to dryness in vacuo. Purification on silica gel afforded 3-methyl-N-{6-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}butanamide [124 mg, yield 62%; HPLC/MS: m/z=392 (M+H); log P(HCOOH)=1.84].

reactant | 6-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine | 0.53 mmol, 149 mg | CN1C=NC=C1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N | C17H17N5O
reactant | triethylamine | 1.21 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | isovaleric anhydride | 2.42 mmol, 0.48 mL | C(CC(C)C)(=O)OC(CC(C)C)=O | C10H18O3
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 3-methyl-N-{6-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}butanamide | 124 mg, yield 62% | CC(CC(=O)NC1=NC(=CC=C1)CON=C(C1=CC=CC=C1)C1=CN=CN1C)C | C22H25N5O2
